US06124313
B7. 8-(2-tert-Butoxycarbonylamino-6-methylbenzyloxy)-3-formyl-2-methylimidazo[1,2-a]pyridine
Starting from 3-formyl-8-hydroxy-2-methylimidazo[1,2-a]pyridine (2.4 g), 2-tert-butoxycarbonylamino-6-methylbenzyl chloride (4.2 g), sodium iodide (2.5 g) and sodium carbonate (3.7 g) in acetone (400 ml) analogously using the process of Example B1 gives, after recrystallization from diisopropyl ether/ethyl acetate, 4.4 g (80%) of the title compound of m.p. 189-191° C.

reactant | 3-formyl-8-hydroxy-2-methylimidazo[1,2-a]pyridine | 2.4 g | C(=O)C1=C(N=C2N1C=CC=C2O)C | C9H8N2O2
reactant | 2-tert-butoxycarbonylamino-6-methylbenzyl chloride | 4.2 g | C(C)(C)(C)OC(=O)NC1=C(CCl)C(=CC=C1)C | C13H18ClNO2
reactant | sodium iodide | 2.5 g | [I-].[Na+]
reactant | sodium carbonate | 3.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 8-(2-tert-Butoxycarbonylamino-6-methylbenzyloxy)-3-formyl-2-methylimidazo[1,2-a]pyridine | C(C)(C)(C)OC(=O)NC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C22H25N3O4
